### PR TITLE
feat(LinearAlgebra/Matrix/Rank): linearly independent rows give a surjective mulVec

### PR DESCRIPTION
**Pull request by mlgraham**
LinearIndependent.rank_matrix says a matrix with linearly independent rows has full row rank. This PR adds surjectivity consequences for mulVec/vecMul, plus rank characterizations:

- LinearIndependent.mulVec_surjective: over a semisimple ring, linearly independent rows give surjective mulVec (reviewer-supplied proof: vecMul injective → left inverse via IsSemisimpleModule.extension_property → right inverse for M). No finiteness hypothesis on the row index m; Finite m follows from linear independence. Fintype n comes from the file's variables, as mulVec requires.
- LinearIndependent.vecMul_surjective: over a commutative semisimple ring, linearly independent columns give surjective vecMul, by transposition from the row version.
- Matrix.mulVec_surjective_iff_rank_eq_card and Matrix.vecMul_surjective_iff_rank_eq_card: over a field, surjectivity iff full row/column rank.

The square-matrix version over commutative artinian rings from an earlier revision has been removed; it is superseded by #44054.

Mathlib has mulVec_surjective_iff_exists_right_inverse and the square mulVec_surjective_iff_isUnit, but nothing from row/column independence. I needed the row form to produce a vector raising every active constraint in a max-min argument.

---

AI usage, per the contribution guidelines: the initial field-level proof and the two iff lemmas were drafted with Claude Code (Fable, Opus) and a second CLI agent (Kimi), which also ran local builds and lints. The semisimple proof of mulVec_surjective, the iff refactor, and the current statement and proof of vecMul_surjective were supplied by reviewers and applied as suggested.

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 1]
```diff
@@ -573,6 +573,13 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
     {M : Matrix m n R} (h : LinearIndependent R M.row) : M.rank = Fintype.card m := by
   rw [M.rank_eq_finrank_span_row, linearIndependent_iff_card_eq_finrank_span.mp h, Set.finrank]
 
+/-- A matrix with linearly independent rows has surjective `mulVec`. -/
+theorem _root_.LinearIndependent.mulVec_surjective [Field R] [Finite m]
+    {M : Matrix m n R} (h : LinearIndependent R M.row) : Function.Surjective M.mulVec := by
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]:
```suggestion
theorem _root_.LinearIndependent.mulVec_surjective [Field R] {M : Matrix m n R}
    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
  have : Finite m := h.finite_of_isNoetherian
```

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 2]
```diff
@@ -573,6 +573,14 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
     {M : Matrix m n R} (h : LinearIndependent R M.row) : M.rank = Fintype.card m := by
   rw [M.rank_eq_finrank_span_row, linearIndependent_iff_card_eq_finrank_span.mp h, Set.finrank]
 
+/-- A matrix with linearly independent rows has surjective `mulVec`. -/
+theorem _root_.LinearIndependent.mulVec_surjective [Field R] {M : Matrix m n R}
+    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
+  have : Finite m := h.finite_of_isNoetherian
+  cases nonempty_fintype m
+  rw [← coe_mulVecLin, ← LinearMap.range_eq_top]
+  exact Submodule.eq_top_of_finrank_eq <| by rw [← rank, h.rank_matrix, Module.finrank_pi]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: I don't think rewriting a definition backwards is nice
```suggestion
  exact Submodule.eq_top_of_finrank_eq <| by rw [Module.finrank_pi, ← h.rank_matrix, rank]
```

Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: maybe add:
```lean
theorem mulVec_surjective_iff_rank_eq_card [Field R] [Fintype m] {M : Matrix m n R} :
    M.mulVec.Surjective ↔ M.rank = Fintype.card m := by
  rw [← coe_mulVecLin, ← LinearMap.range_eq_top, rank, ← Module.finrank_pi R]
  exact ⟨fun h ↦ by rw [h, finrank_top], eq_top_of_finrank_eq⟩
```
and then this can be
```suggestion
  rw [mulVec_surjective_iff_rank_eq_card, h.rank_matrix]
```

**Review by themathqueen — COMMENTED** [review]
can you also add the `vecMul` versions please?

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 2 above)
Comment (mlgraham) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Thanks, that's cleaner. Added `mulVec_surjective_iff_rank_eq_card` as suggested (with `Submodule.eq_top_of_finrank_eq`, since the bare name doesn't resolve in the `Matrix` namespace) and reduced `LinearIndependent.mulVec_surjective` to the one-line `rw`.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 3]
```diff
@@ -573,6 +573,19 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
...
 
+/-- `M.mulVec` is surjective iff `M` has full row rank. -/
+theorem mulVec_surjective_iff_rank_eq_card [Field R] [Fintype m] {M : Matrix m n R} :
+    M.mulVec.Surjective ↔ M.rank = Fintype.card m := by
+  rw [← coe_mulVecLin, ← LinearMap.range_eq_top, rank, ← Module.finrank_pi R]
+  exact ⟨fun h ↦ by rw [h, finrank_top], Submodule.eq_top_of_finrank_eq⟩
+
+/-- A matrix with linearly independent rows has surjective `mulVec`. -/
+theorem _root_.LinearIndependent.mulVec_surjective [Field R] {M : Matrix m n R}
+    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: Could you generalize beyond `Field`s?
Here's a possible proof for `IsSemisimpleRing`:
```lean
example {m n R : Type*} [Ring R] [IsSemisimpleRing R] [Fintype n] {M : Matrix m n R}
    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
  nontriviality R using M.mulVec.surjective_to_subsingleton
  have := @Fintype.ofFinite m h.finite_of_isNoetherian
  classical
  have ⟨f, hf⟩ := IsSemisimpleModule.extension_property M.toLinearMapRight'
    (vecMul_injective_iff.mpr h) .id
  have : M * f.toMatrixRight' = 1 := toLinearMapRight'.injective <| by simpa using hf
  exact fun v ↦ ⟨f.toMatrixRight' *ᵥ v, by simp [this]⟩
```
There's also this `[CommRing R] [IsArtinianRing R]` proof but it's only for square matrices:
```lean
example {m R : Type*} [CommRing R] [IsArtinianRing R] [Fintype m] {M : Matrix m m R}
    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
  classical
  rwa [mulVec_surjective_iff_isUnit, IsArtinianRing.isUnit_iff_isRightRegular,
    isRightRegular_iff_vecMul_injective, vecMul_injective_iff]
```
The rectangular case might require more API, not sure

Comment (mlgraham) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Done, with your proof verbatim — the theorem is now `[Ring R] [IsSemisimpleRing R]`. This requires importing `Mathlib.RingTheory.SimpleModule.Basic`; the summary bot shows the resulting import-graph change.

I've left out the `IsArtinianRing` square version: `IsArtinianRing.isUnit_iff_isRightRegular` and `isRightRegular_iff_vecMul_injective` don't seem to exist yet, so that direction would need new API — better a follow-up PR.

**Comment by mlgraham** [comment]
> can you also add the `vecMul` versions please?

Added both: `Matrix.vecMul_surjective_iff_rank_eq_card` and `LinearIndependent.vecMul_surjective` (via `mulVec_transpose` and `rank_transpose`). These stay over fields — the transpose identity needs commutativity, so a semisimple version of the `vecMul` direction would need a right-module formulation.

**Comment by mlgraham** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: > `IsArtinianRing.isUnit_iff_isRightRegular` and `isRightRegular_iff_vecMul_injective` don't seem to exist yet

What? They do exist. Are you using an LLM to respond?

**Comment by SnirBroshi** [comment]
> Some AI was used.

Could you please elaborate, per the [guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai)? Thanks!

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Note that using an LLM to send messages on Github or Zulip is a violation of our code of conduct. Please use your own words :)

**Comment by mlgraham** [comment]
I thought I understood the guidelines, but the line broadly disallowing LLM use on GitHub comments is really sticking out. I use various tools for linting and formatting in my workflow, but most LLM use that I am conscious of is from Claude Code (Fable, Opus). It’s worth pointing out that the last sentence was peppered with red and blue dots as I wrote it, maybe by an LLM. I’m not trying to waste anyone’s time and I will be more conscious of the guidelines going forward.

**Comment by mlgraham** [comment]
-awaiting-author

**Comment by SnirBroshi** [comment]
Could you follow these parts of the guidelines please?

> If you use artificial intelligence [...], you must explain this in the PR description. Explain which tool(s) you used and how you used it. [...] If your PR contains a substantial amount of LLM-generated code, add the `LLM-generated` label by adding the comment `LLM-generated`.

And I don't understand this part:

> It’s worth pointing out that the last sentence was peppered with red and blue dots as I wrote it, maybe by an LLM. 

but could you edit any existing LLM-authored comments to clarify them as such? And follow up on the `IsArtinianRing` thread?

Thanks!

**Comment by mlgraham** [comment]
I am earnestly attempting to follow the guidelines and you are conflating “use” and “authorship” in regard to the LLM rules you are attempting to police. The human user is the author even if a command-line utility uses natural language processing to build a sentence and call another utility like gh.

**Comment by mlgraham** [comment]
-awaiting-author

**Comment by SnirBroshi** [comment]
Hey, I don't think this is the place to discuss the semantics of the matter, but you are welcome to start a Zulip thread about it. I did not intend any hostility, apologies if it came off that way.

I think it is unambiguous that the current PR description does not contain an explanation of LLM usage, and that the current code does not include any lemma about `IsArtinianRing`.

**Comment by themathqueen** [comment]
@mlgraham, can you please address all of Snir's comments and suggestions before removing the `awaiting-author` label?

**Comment by mlgraham** [comment]
@SnirBroshi, I've updated the PR description.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 3 above)
Comment (mlgraham) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Noted. I am now more clear on the contribution guidelines. I missed IsArtinianRing due to a bad grep. It's addressed in the latest commit. I've again updated the PR description.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 4]
```diff
@@ -573,6 +575,47 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
...
+  rw [hMv, mulVec_surjective_iff_rank_eq_card, rank_transpose]
+
+omit [Fintype n] in
+/-- A matrix with linearly independent columns has surjective `vecMul`. -/
+theorem _root_.LinearIndependent.vecMul_surjective [Field R] [Fintype m] {M : Matrix m n R}
+    (h : LinearIndependent R M.col) : M.vecMul.Surjective := by
+  have := @Fintype.ofFinite n h.finite_of_isNoetherian
+  rw [vecMul_surjective_iff_rank_eq_card, ← rank_transpose]
+  have h' : LinearIndependent R Mᵀ.row := by rw [row_transpose]; exact h
+  exact h'.rank_matrix
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]:
```suggestion
theorem _root_.LinearIndependent.vecMul_surjective [CommRing R] [IsSemisimpleRing R]
    [Fintype m] {M : Matrix m n R} (h : LinearIndependent R M.col) : M.vecMul.Surjective := by
  simp_rw [← row_transpose, ← mulVec_transpose M] at h ⊢
  exact h.mulVec_surjective
```

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 5]
```diff
@@ -573,6 +575,47 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
...
+  exact fun v ↦ ⟨f.toMatrixRight' *ᵥ v, by simp [this]⟩
+
+/-- A square matrix over a commutative artinian ring with linearly independent rows has
+surjective `mulVec`. -/
+theorem _root_.LinearIndependent.mulVec_surjective_of_isArtinianRing
+    [CommRing R] [IsArtinianRing R] [Fintype m] {M : Matrix m m R}
+    (h : LinearIndependent R M.row) : M.mulVec.Surjective := by
+  classical
+  rwa [mulVec_surjective_iff_isUnit, IsArtinianRing.isUnit_iff_isRightRegular,
+    isRightRegular_iff_vecMul_injective, vecMul_injective_iff]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: I think we could probably leave this out since the statements I'm generalising in #44054 are stronger?

The proof of this would essentially just be: `rwa [mulVec_surjective_iff_isUnit, ← linearIndependent_row_iff_isUnit]`.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 6]
```diff
@@ -573,6 +574,36 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
...
+  have ⟨f, hf⟩ := IsSemisimpleModule.extension_property M.toLinearMapRight'
+    (vecMul_injective_iff.mpr h) .id
+  have : M * f.toMatrixRight' = 1 := toLinearMapRight'.injective <| by simpa using hf
+  exact fun v ↦ ⟨f.toMatrixRight' *ᵥ v, by simp [this]⟩
+
+/-- `M.vecMul` is surjective iff `M` has full column rank. -/
+theorem vecMul_surjective_iff_rank_eq_card [Field R] [Fintype m] {M : Matrix m n R} :
+    M.vecMul.Surjective ↔ M.rank = Fintype.card n := by
+  have hMv : M.vecMul = Mᵀ.mulVec := funext fun v ↦ (mulVec_transpose M v).symm
+  rw [hMv, mulVec_surjective_iff_rank_eq_card, rank_transpose]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]:
```suggestion
  simp [← mulVec_transpose, mulVec_surjective_iff_rank_eq_card]
```

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 7]
```diff
@@ -573,6 +574,36 @@ theorem _root_.LinearIndependent.rank_matrix [Field R] [Fintype m]
...
+
+omit [Fintype n] in
+/-- A matrix with linearly independent columns has surjective `vecMul`. -/
+theorem _root_.LinearIndependent.vecMul_surjective [CommRing R] [IsSemisimpleRing R]
+    [Fintype m] {M : Matrix m n R} (h : LinearIndependent R M.col) : M.vecMul.Surjective := by
+  simp_rw [← row_transpose, ← mulVec_transpose M] at h ⊢
+  exact h.mulVec_surjective
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]:
```suggestion
  simpa [← mulVec_transpose] using h.mulVec_surjective
```
